US07160878B2
F. 1-(6-Chloronaphthalen-2-ylsulfonyl)-4-[6-(4-methyl-hexahydro-1,4-diazepin-1-yl)pyridazin-3-ylcarbonyl]-piperazine Hemihydrate
A mixture of 1-(6-chloronaphthalene-2-sulfonyl)-4-(6-chloropyridazin-3-ylcarbonyl)piperazine (0.2 g, 0.443 mmol), 1-methylhexahydro-1,4-diazepine (0.166 mL, 1.33 mmol) and pyridine (0.11 mL, 1.33 mmol) in DMSO (5 mL) was heated in a sealed tube at 80° C. overnight. The reaction mixture was cooled to room temperature, diluted with ethyl acetate (500 mL), washed with saturated sodium bicarbonate (200 mL), water (2×150 mL) and brine, and dried over sodium sulfate. After filtration and evaporation of the solvent, the residue was purified by flash chromatography over silica, eluting with 5–7% methanol/methylene chloride, to afford the title compound (0.1 g, 43%).

reactant | 1-(6-chloronaphthalene-2-sulfonyl)-4-(6-chloropyridazin-3-ylcarbonyl)piperazine | 0.443 mmol, 0.2 g | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CCN(CC1)C(=O)C=1N=NC(=CC1)Cl | C19H16Cl2N4O3S
reactant | 1-methylhexahydro-1,4-diazepine | 1.33 mmol, 0.166 mL | CN1CCNCCC1 | C6H14N2
reactant | pyridine | 1.33 mmol, 0.11 mL | N1=CC=CC=C1 | C5H5N
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | 500 mL | C(C)(=O)OCC | C4H8O2
product | 1-(6-Chloronaphthalen-2-ylsulfonyl)-4-[6-(4-methyl-hexahydro-1,4-diazepin-1-yl)pyridazin-3-ylcarbonyl]-piperazine Hemihydrate | 0.1 g, 43% | O.ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CCN(CC1)C(=O)C=1N=NC(=CC1)N1CCN(CCC1)C.ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CCN(CC1)C(=O)C=1N=NC(=CC1)N1CCN(CCC1)C | InChI=1S/2C25H29ClN6O3S.H2O/c2*1-29-9-2-10-30(12-11-29)24-8-7-23(27-28-24)25(33)31-13-15-32(16-14-31)36(34,35)22-6-4-19-17-21(26)5-3-20(19)18-22;/h2*3-8,17-18H,2,9-16H2,1H3;1H2
